US08071591B2
To a solution of n-BuLi (1.59 M in Hexane, 45 mL. 71.6 mmol) in dry ether (150 mL) was added a solution of 3-Bromopyridine (11.24 g, 71.1 mmol) in dry ether (70 mL) dropwise at −78° C. After stirring for 10 min, a solution of cyclohexane-1,4-dione monoetylene acetal (9.25 g, 59.2 mmol) in THF (70 mL) was added over a period of 20 min at −78° C., and stirred for 3 h. To the reaction mixture was added with water. The aqueous layer was extracted with CH2Cl2, and the organic layer was washed with brine. The extracts were combined with the organic layer. After drying and concentration, the crude product was purified by column chromatography (Hexane/EtOAc=2/1) to yield 4-hydroxy-4-(3-pyridyl)cyclohexanone ethylene acetal (6.55 g, 47%) as a pale yellow powder.

reactant | n-BuLi | 71.6 mmol, 1.59 M, 45 mL | [Li]CCCC
reactant | 3-Bromopyridine | 71.1 mmol, 11.24 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | cyclohexane-1,4-dione monoetylene acetal | 59.2 mmol, 9.25 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | water | O | H2O
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | ether | 70 mL | CCOCC | C4H10O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 4-hydroxy-4-(3-pyridyl)cyclohexanone ethylene acetal | 6.55 g, 47% | C1COC2(CCC(CC2)(C=2C=NC=CC2)O)O1 | C13H17NO3
